US05965614
Synthesis of N-(3-trifluoromethyl-4-chlorophenyl)alanine Ethyl Ester
Following General Procedure A above and using 4-chloro-3-(trifluoromethyl)aniline (Aldrich) and ethyl pyruvate (Aldrich), the title compound was prepared.

reactant | 4-chloro-3-(trifluoromethyl)aniline | ClC1=C(C=C(N)C=C1)C(F)(F)F | C7H5ClF3N
reactant | ethyl pyruvate | C(C(=O)C)(=O)OCC | C5H8O3
product | N-(3-trifluoromethyl-4-chlorophenyl)alanine Ethyl Ester | C(C)OC([C@@H](NC1=CC(=C(C=C1)Cl)C(F)(F)F)C)=O | C12H13ClF3NO2
